US04933453
2,2-Dimethyl-3-[4-[1-(2-methoxyphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride hydrate
To a solution of 2,2-dimethyl-3-(4-chlorobutyl)-4-thiazolidinone (3.26 g) and 1-(2-methoxyphenyl)piperazine (2.8 g) in 100 ml of anhydrous CH3CN were added anhydrous K2CO3 (4.5 g) and NaI (200 mg). The mixture was heated with stirring to 80° under N2.

reactant | 2,2-dimethyl-3-(4-chlorobutyl)-4-thiazolidinone | 3.26 g | CC1(SCC(N1CCCCCl)=O)C | C9H16ClNOS
reactant | 1-(2-methoxyphenyl)piperazine | 2.8 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | K2CO3 | 4.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 2,2-Dimethyl-3-[4-[1-(2-methoxyphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride hydrate | O.Cl.CC1(SCC(N1CCCCN1CCN(CC1)C1=C(C=CC=C1)OC)=O)C | InChI=1S/C20H31N3O2S.ClH.H2O/c1-20(2)23(19(24)16-26-20)11-7-6-10-21-12-14-22(15-13-21)17-8-4-5-9-18(17)25-3;;/h4-5,8-9H,6-7,10-16H2,1-3H3;1H;1H2
